US04970207
To a solution of (3S)-1,3-dihydro-1-(4-imidazolylmethyl) -3-(2-indolylcarbonylamino)-5-(2-fluorophenyl) -2H-1,4-benzodiazepine-2-one (215.1 mg) in methanol (5 ml) was added 6N-hydrogen chloride solution in ether (0.1 ml) under cooling. The clear yellow solution was evaporated to dryness under reduced pressure. The residue was triturated in ether to afford yellow powder, which was collected by filtration and washed twice with ether to give (3S)-1,3-dihydro-1-(4-imidazolylmethyl)-3-(2-indolylcarbonylamino) -5-(2-fluorophenyl)-2H-1,4-benzodiazepine-2-one hydrochloride (197.1 mg).

reactant | (3S)-1,3-dihydro-1-(4-imidazolylmethyl) -3-(2-indolylcarbonylamino)-5-(2-fluorophenyl) -2H-1,4-benzodiazepine-2-one | 215.1 mg | N1C=NC(=C1)CN1C([C@H](N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)C=2NC1=CC=CC=C1C2)=O | C28H21FN6O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | ether | 0.1 ml | CCOCC | C4H10O
product | (3S)-1,3-dihydro-1-(4-imidazolylmethyl)-3-(2-indolylcarbonylamino) -5-(2-fluorophenyl)-2H-1,4-benzodiazepine-2-one hydrochloride | 197.1 mg | Cl.N1C=NC(=C1)CN1C([C@H](N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)C=2NC1=CC=CC=C1C2)=O | InChI=1S/C28H21FN6O2.ClH/c29-21-10-4-2-8-19(21)25-20-9-3-6-12-24(20)35(15-18-14-30-16-31-18)28(37)26(33-25)34-27(36)23-13-17-7-1-5-11-22(17)32-23;/h1-14,16,26,32H,15H2,(H,30,31)(H,34,36);1H/t26-;/m1./s1
